US08809342B2
1-(4-Iodophenyl)-3-methylbutan-1-amine hydrochloride (1.14 g, 3.49 mmol), methyl 6-fluoronicotinate (0.568 g, 3.66 mmol), and potassium carbonate (1.45 g, 10.5 mmol) were combined in N,N-dimethylformamide (11.6 mL) and heated to 100° C. for 3.5 hours. The reaction was then cooled to room temperature and diluted with water and ethyl acetate. The layers were separated and the aqueous was extracted 3 times with ethyl acetate. The combined organics were washed with brine, dried over magnesium sulfate, filtered and concentrated. Purification by column chromatography (0-30% ethyl acetate/heptane) provided methyl 6-(1-(4-iodophenyl)-3-methylbutylamino)nicotinate (0.772 g, 52%) as a white solid. 1H NMR (400 MHz, CDCl3, δ): 8.69 (d, J=1.8 Hz, 1H), 7.89 (dd, J=8.8, 2.3 Hz, 1H), 7.60-7.64 (m, 2H), 7.04-7.08 (m, 2H), 6.16 (d, J=8.4 Hz, 1H), 5.49 (d, J=6.4 Hz, 1H), 4.62-4.69 (m, 1H), 3.82 (s, 3H), 1.54-1.76 (m, 3H), 0.90-0.97 (m, 6H). MS (M+1): 425.2.

reactant | 1-(4-Iodophenyl)-3-methylbutan-1-amine hydrochloride | 3.49 mmol, 1.14 g | Cl.IC1=CC=C(C=C1)C(CC(C)C)N
reactant | methyl 6-fluoronicotinate | 3.66 mmol, 0.568 g | FC1=NC=C(C(=O)OC)C=C1 | C7H6FNO2
reactant | potassium carbonate | 10.5 mmol, 1.45 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 11.6 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 6-(1-(4-iodophenyl)-3-methylbutylamino)nicotinate | 0.772 g, 52% | IC1=CC=C(C=C1)C(CC(C)C)NC1=NC=C(C(=O)OC)C=C1 | C18H21IN2O2
